US08293926B2
Synthesis of dimethyl (R)-2-(1-(4-chlorophenyl)-2-nitroethyl)malonate
This hydrated coarse crystal of 4-chloro-β-nitrostyrene was dissolved in toluene (19 ml), the aqueous phase was separated by a liquid-separation operation, and the organic phase was azeotropically dehydrated under reduced pressure, to distill off 9.5 ml. A catalyst prepared according to a method described in non-patent document 2 (nickel(II)bis[(S,S)—N,N′-dibenzylcyclohexane-1,2-diamine]bromide) (58 mg, 0.072 mmol) and dimethyl malonate (2.3 g, 17 mmol) were added, and the mixture was heated up to 50° C. and stirred at the same temperature for 7 hours. After completion of the reaction, the reaction solution was washed with 0.1 mol/L hydrochloric acid (5 ml) and water (5 ml) each once. The organic phase was concentrated under reduced pressure, and crystallized in a toluene/heptane solvent, to obtain 4.2 g (13 mmol) of a title compound. Yield 75%. The spectrum data corresponded to the value in non-patent document 3. The optical purity of the resultant title compound was measured by HPLC to find a value of 94% ee.

reactant | 4-chloro-β-nitrostyrene | ClC1=CC=C(C=C[N+](=O)[O-])C=C1 | C8H6ClNO2
reactant | dimethyl malonate | 17 mmol, 2.3 g | C(CC(=O)OC)(=O)OC | C5H8O4
solvent | toluene | 19 ml | C1(=CC=CC=C1)C | C7H8
catalyst | nickel(II)bis[(S,S)—N,N′-dibenzylcyclohexane-1,2-diamine]bromide | [Br-].C(C1=CC=CC=C1)N[C@@H]1[C@H](CCCC1)NCC1=CC=CC=C1.C(C1=CC=CC=C1)N[C@@H]1[C@H](CCCC1)NCC1=CC=CC=C1.[Ni+2].[Br-]
product | dimethyl (R)-2-(1-(4-chlorophenyl)-2-nitroethyl)malonate | 13 mmol, 4.2 g, Yield 75% | ClC1=CC=C(C=C1)[C@H](C[N+](=O)[O-])C(C(=O)OC)C(=O)OC | C13H14ClNO6
